US06867211B2
b) 1-(Pyridine-4-carbonyl)pyrrolidine-2-carboxylic acid
Benzyl 1-(pyridine-4-carbonyl)pyrrolidine-2-carboxylate (4.0 g, 11.5 mmol) is dissolved at RT in a mixture of THF and ethanol abs. (1:1, 30 ml), and treated with palladium on active carbon (10%, 0.7 g). Evacuation is then carried out three times and the vacuum is replaced by hydrogen from a balloon.

reactant | Benzyl 1-(pyridine-4-carbonyl)pyrrolidine-2-carboxylate | 11.5 mmol, 4.0 g | N1=CC=C(C=C1)C(=O)N1C(CCC1)C(=O)OCC1=CC=CC=C1 | C18H18N2O3
reactant | hydrogen | [H][H] | H2
solvent | THF | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 1-(Pyridine-4-carbonyl)pyrrolidine-2-carboxylic acid | N1=CC=C(C=C1)C(=O)N1C(CCC1)C(=O)O | C11H12N2O3
